US08258144B2
To a solution of (R)-1-(4-(4-(4-(1-hydroxypropan-2-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone (25 mg, 0.044 mmol) in MeOH (1 mL) and dioxane (1 mL), aq. 1N KOH (1.0 mL, 1.0 mmol) was added. After being stirred at 60° C. for 3 h, it was concentrated in vacuo. The residue was acidified with HOAc (1 mL), then was purified by HPLC to give (R)-1-(4-(4-(4-(1-hydroxypropan-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone (7 mg), MS 410.5 (M+H); UV 202.6, 267.5, 303.1 nm; and (R)-2-(2-(4-(piperazin-1-yl)phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)propan-1-ol (3 mg), MS 368.5 (M+H); UV 229.6, 271.0, 301.9 nm.

reactant | (R)-1-(4-(4-(4-(1-hydroxypropan-2-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | 0.044 mmol, 25 mg | OC[C@@H](C)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C28H33N7O4S
reactant | KOH | 1.0 mmol, 1N, 1.0 mL | [OH-].[K+]
solvent | MeOH | 1 mL | CO | CH4O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (R)-1-(4-(4-(4-(1-hydroxypropan-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | 7 mg | OC[C@@H](C)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O)NC=C2 | C21H27N7O2
